US04439514
N,N'-Bis(2-Methyl-4-nitrophenyl)-2,4-hexadiyn-1,6-diamine
To a suspension of Cu(OAc)2.H2O (1.5 g) in pyridinemethanol (1:1, 15 ml) was added N-(2-propynyl)-2-methyl-4-nitroaniline (1.00 g, 5.26×10-3 mole). The reaction mixture was stirred at 50° C. for two hours. The mixture was poured into excess water and filtered. The crude solid was recrystallized from nitromethane to afford yellow crystals. Yield: 0.70 g (71%). The material did not melt below 200° C. but turned red at 150° C. I.R. (KBr): 3390 (NH), 1585 and 1280 cm-1 (Ar-NO2).

reactant | N-(2-propynyl)-2-methyl-4-nitroaniline | 5.26×10-3 mole, 1.00 g | C(C#C)NC1=C(C=C(C=C1)[N+](=O)[O-])C | C10H10N2O2
reactant | water | O | H2O
reactant | KBr | [K+].[Br-]
solvent | pyridinemethanol | 15 ml | N1=C(C=CC=C1)CO | C6H7NO
catalyst | Cu(OAc)2.H2O | 1.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
product | N,N'-Bis(2-Methyl-4-nitrophenyl)-2,4-hexadiyn-1,6-diamine | CC1=C(C=CC(=C1)[N+](=O)[O-])NCC#CC#CCNC1=C(C=C(C=C1)[N+](=O)[O-])C | C20H18N4O4
